US08802673B2
To a stirred solution of tert-butyl 2-(6-(5-chloropyridin-2-ylamino)pyridin-3-yl)morpholine-4-carboxylate (22 mg) in acetonitrile (1.5 ml) and water (4.5 ml) was added trifluoroacetic acid (43 μl). The reaction mixture was then capped and the mixture was shaken at 80° C. for 3 h. The reaction mixture was then cooled to room temperature and poured into EtOAc/THF (1:1) and washed with 1 M aq. NaOH. The organic layer was dried over Na2SO4 and concentrated in vacuo. The crude material was purified by flash column chromatography (Isolute® Flash-NH2 from Separtis; gradient: heptane/EtOAc/MeOH) to afford (RS)-5-chloro-N-(5-(morpholin-2-yl)pyridin-2-yl)pyridin-2-amine (15 mg, 92%) as a colourless amorphous solid. MS (ISP): 293.1 ([{37Cl}M+H]+), 291.1 ([{35Cl}M+H]+).

reactant | tert-butyl 2-(6-(5-chloropyridin-2-ylamino)pyridin-3-yl)morpholine-4-carboxylate | 22 mg | ClC=1C=CC(=NC1)NC1=CC=C(C=N1)C1CN(CCO1)C(=O)OC(C)(C)C | C19H23ClN4O3
reactant | trifluoroacetic acid | 43 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | EtOAc THF | CCOC(=O)C.C1CCOC1
solvent | acetonitrile | 1.5 ml | C(C)#N | C2H3N
solvent | water | 4.5 ml | O | H2O
product | (RS)-5-chloro-N-(5-(morpholin-2-yl)pyridin-2-yl)pyridin-2-amine | 15 mg, 92% | ClC=1C=CC(=NC1)NC1=NC=C(C=C1)C1CNCCO1 | C14H15ClN4O
